US04247543
(c) Boc-Tyr-(D)-Ala-Gly-Phe-Met-serinol
To 2.5 g of Boc-Tyr-(D)-Ala-Gly-Phe-NHNH2 in 40 ml of DMF are added 2.7 ml of 5.6 N HCl in dioxane and 0.52 ml of tert.butylnitrite at -20° and, after 10 minutes, 3.4 ml of triethylamine and 2 g of H-Met-serinol trifuloroacetate. After 4 hours at 0° and 15 hours at room temperature, the mixture is concentrated under vacuum, the residue taken up in ethyl acetate and washed repeatedly with dilute HCl and water and the organic phase evaporated. The residue crystallizes from methanol/ether to yield the title compound. M.P. 140° (decomp.). [α]D20 =-15 (C=1 in DMF).

reactant | Boc-Tyr-(D)-Ala-Gly-Phe-NHNH2 | 2.5 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NN)C(=O)OC(C)(C)C | C28H38N6O7
reactant | HCl | 5.6 N, 2.7 ml | Cl | ClH
reactant | triethylamine | 3.4 ml | C(C)N(CC)CC | C6H15N
reactant | H-Met serinol | 2 g | N[C@@H](CCSC)C(=O)O.NC(CO)CO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | tert.butylnitrite | 0.52 ml | C(C)(C)(C)ON=O | C4H9NO2
product | Boc-Tyr-(D)-Ala-Gly-Phe-Met serinol | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCSC)C(=O)O)C(=O)OC(C)(C)C.NC(CO)CO | InChI=1S/C33H45N5O9S.C3H9NO2/c1-20(35-29(42)26(38-32(46)47-33(2,3)4)18-22-11-13-23(39)14-12-22)28(41)34-19-27(40)36-25(17-21-9-7-6-8-10-21)30(43)37-24(31(44)45)15-16-48-5;4-3(1-5)2-6/h6-14,20,24-26,39H,15-19H2,1-5H3,(H,34,41)(H,35,42)(H,36,40)(H,37,43)(H,38,46)(H,44,45);3,5-6H,1-2,4H2/t20-,24+,25+,26+;/m1./s1
